US06156758
2-Chloro-6,7-dimethoxyquinazoline (QH).
Sodium borohydride (0.23 g, 6.1 mmole) was added to a solution of 2,4-dichloro-6,7-dimethoxyquinazoline (1.0 g, 4 mmol) in EtOH/CH2Cl2 (40 mL; 1:1; v/v) at 25° C. The mixture was stirred at 25° C. for 12 h then was poured into cold HCl aqueous solution (0.4 M, 200 mL). The resulting mixture was basicified with saturated NaHCO3 (aq) and then extracted with EtOAc (3×100 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo to give a yellowish white solid reside. Purification of the residue by flash column chromatography (gradient elution 20 to 35% EtOAc/hexanes) provided the title compound (0.33 g, 37%): TLC (Rf =0.50; 50% EtOAc/hexanes); 1H NMR (DMSO) δ 9.25 (s, 1H), 7.55 (s, 1H), 7.36 (s, 1H), 3.98 (s, 3H), 3.93 (s, 3H); 3C NMR (CDCl3) δ 159.1, 157.3, 156.1, 150.9, 150.1, 119.4, 105.9, 103.7, 56.6, 56.4; HRMS (FAB) m/z 225.0431 (M+H)+ (C10H9N2O2Cl requires 225.0431); Anal. (C10H9N2O2Cl·3/4H2O·1/4CH3OH) C, H, N.

reactant | Sodium borohydride | 6.1 mmole, 0.23 g | [BH4-].[Na+]
reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 4 mmol, 1.0 g | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | HCl | 0.4 M, 200 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH CH2Cl2 | 40 mL | CCO.C(Cl)Cl
product | 2-Chloro-6,7-dimethoxyquinazoline | 0.33 g, 37% | ClC1=NC2=CC(=C(C=C2C=N1)OC)OC | C10H9ClN2O2
